US08912219B2
Step 3: phenyl 4-(4-acetylpiperazin-1-yl)-2-fluorobenzyl(cyclobutyl)sulfamate
To a solution of 3-methyl-1-(phenoxysulfonyl)-1H-imidazol-3-ium triflate (143 mg, 0.6 mmol) and 1-(4-(4-((cyclobutylamino)methyl)-3-fluorophenyl)piperazin-1-yl)ethanone (150 mg, 0.49 mmol) in DCM (20 mL) was added diisopropylethylamine (1 mL). The mixture was stirred at ambient temperature for 16 h. After the solvent was removed, the residue was purified by prep-HPLC to provide the title compound (67.3 mg, 29.6%). 1H NMR (400 MHz, DMSO-d6) δ 7.44-7.40 (m, 2 H), 7.34-7.24 (m, 4 H), 6.79-6.67 (m, 2 H), 4.46 (s, 2 H), 4.20-4.17 (m, 1 H), 3.73-3.66 (m, 4 H), 3.26-3.17 (m, 4 H), 2.19-2.15 (m, 2 H), 2.14 (s, 3 H), 2.03-1.98 (m, 2 H), 1.62-1.52 (m, 2 H). LCMS (ESI): m/z 483.9 [M+Na+].

reactant | 3-methyl-1-(phenoxysulfonyl)-1H-imidazol-3-ium triflate | 0.6 mmol, 143 mg | [O-]S(=O)(=O)C(F)(F)F.C[N+]1=CN(C=C1)S(=O)(=O)OC1=CC=CC=C1
reactant | 1-(4-(4-((cyclobutylamino)methyl)-3-fluorophenyl)piperazin-1-yl)ethanone | 0.49 mmol, 150 mg | C1(CCC1)NCC1=C(C=C(C=C1)N1CCN(CC1)C(C)=O)F | C17H24FN3O
reactant | diisopropylethylamine | 1 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | phenyl 4-(4-acetylpiperazin-1-yl)-2-fluorobenzyl(cyclobutyl)sulfamate | 67.3 mg, 29.6% | C(C)(=O)N1CCN(CC1)C1=CC(=C(CN(S(OC2=CC=CC=C2)(=O)=O)C2CCC2)C=C1)F | C23H28FN3O4S
